US07211668B2
N-{2-[5-(4-Nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-N-[(thymin-1-yl)-acetyl]-glycine ethyl ester
The title compound was synthesized by the reaction of N-{2-[5-(4-nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-glycine ethyl ester with (thymin-1-yl)-acetic acid as per the procedure of example 13.

reactant | N-{2-[5-(4-nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-glycine ethyl ester | C(C)OC(CNCCNS(=O)(=O)C=1SC(=NN1)C1=CC=C(C=C1)[N+](=O)[O-])=O | C14H17N5O6S2
reactant | (thymin-1-yl)-acetic acid | N1(C(=O)NC(=O)C(C)=C1)CC(=O)O | C7H8N2O4
product | N-{2-[5-(4-Nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-N-[(thymin-1-yl)-acetyl]-glycine ethyl ester | C(C)OC(CN(C(CN1C(=O)NC(=O)C(C)=C1)=O)CCNS(=O)(=O)C=1SC(=NN1)C1=CC=C(C=C1)[N+](=O)[O-])=O | C21H23N7O9S2
